US07067529B2
To a stirred solution of [1-(4-benzyloxy-3-methoxy-phenyl)-2-phenyl-ethyl]-(2,2-dimethoxy-ethyl)-carbamic acid ethyl ester (100 mg, 0.19 mmol) in acetone (5 mL) was added 6N hydrochloric acid (1 mL) at 0° C. The reaction mixture was stirred at room temperature for 18 hrs and neutralized by addition of 6N aqueous sodium hydroxide solution. The solvent was evaporated and the aqueous phase was extracted with dichloromethane (3×25 μL). The combined extracts were washed with saturated aqueous sodium chloride solution (10 mL), dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 70–230 mesh, 50% ethyl acetate/hexane) afforded 6-benzyloxy-7-methoxy-1-(3-methoxy-benzyl)-1H-isoquinoline-2-carboxylic acid ethyl ester (60 g, 85% yield) as a colorless oil.

reactant | [1-(4-benzyloxy-3-methoxy-phenyl)-2-phenyl-ethyl]-(2,2-dimethoxy-ethyl)-carbamic acid ethyl ester | 0.19 mmol, 100 mg | C(C)OC(N(CC(OC)OC)C(CC1=CC=CC=C1)C1=CC(=C(C=C1)OCC1=CC=CC=C1)OC)=O | C29H35NO6
reactant | hydrochloric acid | 6N, 1 mL | Cl | ClH
reactant | sodium hydroxide | 6N | [OH-].[Na+]
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | 6-benzyloxy-7-methoxy-1-(3-methoxy-benzyl)-1H-isoquinoline-2-carboxylic acid ethyl ester | 60 g, 85% yield | C(C)OC(=O)N1C(C2=CC(=C(C=C2C=C1)OCC1=CC=CC=C1)OC)CC1=CC(=CC=C1)OC | C28H29NO5
